Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
simvastatin
 
Attending: ___
 
Chief Complaint:
left hand numbness and weakness and
slurred speech
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year-old RH AA man with a history of
ischemic stroke & TIA, arrhythmia (not definitively afib), HTN,
HLD who presents to the ED with abnormal speech since yesterday
evening at 5:45pm. Neurology is consulted in the ED for further
management. 

Mr. ___ was last well yesterday when at ___ he bent down to
tie his shoes.  Upon rising, he had sudden onset of left lower
face numbness and tingling that he describes as "tingling like
novocaine."  Within one minute, he noticed his left thumb, ___
and ___ digits went numb with tingling. The left hand was also
weak and he could not hold a pen or objects in his hand.  He did
not think he was weak in the shoulder more proximal arm.  He did
not look in the mirror to see if there was facial weakness.  No
leg weakness.  His friend called during this episode and 
actually
thought the patient was drunk although the patient denied
recently drinking.  His speech was slurred and mumbling but he
understood what his friend was saying.  His friend urged him to
go the ED, but by the time he drove himself there his symptoms
already resolved.  Duration of entire symptoms approximately 15
minutes. At ___, he was not actually seen because the wait was
too long and his symptoms had already resolved.  Also no 
headache
or dizziness or neck pain.

This morning, he awoke at ___ to his daughter calling his
___.  He answered the phone in bed and his daughter 
thought
his speech was slowed and slurred, but better than yesterday.  
He
noticed this as well and thought it was disproportionate to
groggy speech that you can get upon awakening.  He checked out
his left hand and face and there was no numbness, tingling or
weakness.  No facial droop seen in the mirror.  He was urged by
his PCP office to come into the ED.  He continued to have a
feeling his speech was "off" and somewhat slow but admitted that
he others probably could not pick up on it.  
      
With regards to his prior strokes/TIAs, he has had at least 2
episodes of neurological symptoms in the past.  In ___, he had
sudden onset inability to speak and right hand weakness while at
a ___.  Symptoms lasted 3.5hours.  At ___, he was
offered tpa (but declined) and his symptoms spontaneously
resolved.  He was also found to have a PFO (see copy of report
below as listed in OMR).  His was then placed on aspirin. A
second episode was in ___ where he had a ___ minute
transient episode of his "right hand getting stuck in a fist"
which spontaneously resolved.  No sensory symptoms or speech
changes with that.  He may have had another episode ___ years 
ago
with sensory changes of the left hand for a few minutes, but he
does not remember that in detail.  

Mr. ___ says he was diagnosed with afib the ___,
but was not placed on anticoagulation.  After transferring care
to ___ in the ___, Dr. ___ this
diagnosis further, but could not find evidence of afib on prior
telemetry studies. There were multiple PVCs but no actual afib.
He repeated a 20day ___ monitor ___ showed "Eleven
recordings with/without complaints of "fast heart rate" showed
sinus/sinus tachycardia at rates 83 to 158 BPM with isolated
APBs, VPBs, an atrial couplet, a ventricular couplet, and 2 runs
of atrial tachycardia, 4 to 8 beats in duration, at rates 156 to
202 BPM."  No afib on that study.  Thus, the diagnosis of
paroxysmal afib remains unclear. 

 
Past Medical History:
- Congenital right ptosis s/p surgical repair in ___, still 
with
ptosis especially when tired or stressed.
- Ischemic stroke/TIA (see above)
- History of PFO
- Palpitations and PVCs - per patient he was diagnosed with afib
in the past, but when PCP reviewed OSH records there was no 
afib,
but rather 3000 PVCs and couplets.  
- HTN - recently poorly controlled (150/100) in a ___ PCP
___.
- Hyperlipidemia - Prior lipid panel from ___ total chol
228, HDL 114, LDL 81, ___ 156. 
- Elevated liver enzymes - (NASH vs statin effect) found in
___ in work up of anxiety, weight loss and malaise. 
Ferritin 1000, ALT 152, AST 119, all trended down with alcohol
cessation.  MRI liver did not show cirrhosis or portal HTN.
- Prior alcohol abuse
- History of anemia and elevated CEA
- Gastritis, Hpylori seen on stomach and duodenal bx ___
 
Social History:
___
Family History:
He is adopted. Has one daughter who is healthy.
 
Physical Exam:
Vitals:  T: 98.9   HR: 83    BP: 149/95   RR:18   SaO2: 100%RA
General:  tall black man, NAD
HEENT: Right ptosis and proptosis, NCAT,  soft palate deformity,
neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive. Speech is fluent with full sentences,
intact repetition, and intact verbal comprehension. Naming
intact.  There were 2 phonemic paraphasias in entire interview
(at least 20 min of him talking).  No dysarthria. Normal 
prosody.
Able to register 3 objects and recall ___ at 5 minutes without
cue and ___ with cuing. No apraxia. No evidence of hemineglect.
No left-right confusion.  Able to follow both midline and
appendicular commands.

- Cranial Nerves - Right pupil 2->1, Left 3->2, both round and
brisk.  VF full to number counting. Intermittent right exotropia
that sometimes corrects.  EOMI, but right eye appears to move
with saccadic intrusions while pursuit in left eye is normal.
V1-V3 without deficits to light touch or pin or temperature
bilaterally. Right ptosis (2mm) which is congenital, no NLFF or
perioral asymmetry. Hearing intact to finger rub bilaterally. 
Palate elevation symmetric. SCM/Trapezius strength ___
bilaterally. Tongue midline and agile.

- Motor - Normal bulk and tone. No drift. There is a bilateral
R>L fine (<1cm) postural tremor of the fingers.  A more 
prominent
R>L intention tremor.  No dysmetria.  No asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___- 5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or cold 
bilaterally.
No exinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. HKS normal bilaterally.  Good speed and intact
cadence with rapid alternating movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Romberg positive, but no
corrective step made.

Discharge exam unchanged
 
Pertinent Results:
___ 10:57AM BLOOD WBC-5.3 RBC-4.77 Hgb-13.7 Hct-42.1 MCV-88 
MCH-28.7 MCHC-32.5 RDW-13.8 RDWSD-44.2 Plt ___
___ 10:57AM BLOOD Neuts-54.6 ___ Monos-9.3 Eos-2.7 
Baso-0.9 Im ___ AbsNeut-2.88 AbsLymp-1.69 AbsMono-0.49 
AbsEos-0.14 AbsBaso-0.05
___ 10:57AM BLOOD ___ PTT-29.4 ___
___ 10:57AM BLOOD Plt ___
___ 10:57AM BLOOD Glucose-92 UreaN-12 Creat-0.8 Na-136 
K-4.2 Cl-99 HCO3-24 AnGap-17
___ 10:57AM BLOOD estGFR-Using this
___ 10:57AM BLOOD ALT-23 AST-24 AlkPhos-54 TotBili-0.6
___ 10:57AM BLOOD Lipase-83*
___ 10:57AM BLOOD cTropnT-<0.01
___ 05:50AM BLOOD Cholest-PND
___ 10:57AM BLOOD Albumin-4.3
___ 04:49PM BLOOD %HbA1c-4.8 eAG-91
___ 05:50AM BLOOD Triglyc-PND HDL-PND
___ 10:57AM BLOOD TSH-0.99
___ 05:45PM BLOOD Ethanol-NEG
___ 10:57AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

MRI Brain:
FINDINGS:  
  
There is restricted diffusion in the right precentral gyrus with 
associated 
T2/FLAIR hyperintense signal. 
  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or extra-axial fluid collection. The ventricles and sulci are 
normal in 
caliber and configuration. Scattered foci of T2/FLAIR 
hyperintensities in the 
periventricular and subcortical white matter are nonspecific, 
but may 
represent the sequela of chronic small vessel ischemic disease. 
There is a 
cavum septum pellucidum and cavum et vergae. 
  
Both maxillary sinuses contain small mucous retention cysts. 
There is mild 
mucosal thickening in the bilateral ethmoid and left frontal 
sinuses. 
  
The proptotic right globe is elongated in the anterior posterior 
dimension, 
unchanged from the prior examination. 
  
IMPRESSION: 
  
  
1. Acute infarction in the right precentral gyrus without 
evidence of 
hemorrhagic transformation. 
2. Unchanged, proptotic an elongated right orbit, which may be 
related to 
staphyloma or axial myopia. 

EXAMINATION: BILAT LOWER EXT VEINS 
  
INDICATION: ___ year old man with stroke and PFO, please eval for 
DVT. // see 
below 
  
TECHNIQUE: Grey scale, color, and spectral Doppler evaluation 
was performed 
on the bilateral lower extremity veins. 
  
COMPARISON: None. 
  
FINDINGS:  
  
There is normal compressibility, flow, and augmentation of the 
bilateral 
common femoral, femoral, and popliteal veins. Normal color flow 
and 
compressibility are demonstrated in the posterior tibial and 
peroneal veins. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
3.2 x 1.8 x 1.7 cm fluid collection in the left superior central 
calf may 
represent a ___ cyst or ganglion cyst. 
  
IMPRESSION:  
  
1. No evidence of deep venous thrombosis in the right or left 
lower extremity 
veins. 
  
2. A 3.2 x 1.8 x 1.7 cm fluid collection in the left superior 
calf may 
represent ___ cyst or ganglion cyst. If further 
characterization is 
needed an MRI could be performed. 

CTA Head and neck, official read pending

EXAMINATION:  CT HEAD W/O CONTRAST 
  
INDICATION:  ___ with slurred speech 
  
TECHNIQUE:  Contiguous axial images from skullbase to vertex 
were obtained 
without intravenous contrast.  Coronal and sagittal reformations 
and bone 
algorithms reconstructions were also performed. 
  
DOSE:  Total DLP (Head) = 1,003 mGy-cm. 
  
COMPARISON:  None available. 
  
FINDINGS:  
  
Evaluation is slightly limited by motion. There is no acute 
large vessel 
territory hypodensity or intracranial hemorrhage. The ventricles 
and sulci are 
normal in size and configuration.  Cavum septum pellucidum is 
incidentally 
noted.  A right frontal white matter focal hypodensity is 
nonspecific and may 
represent the sequela of chronic small vessel ischemic change, 
however, a 
demyelinating process, vasculitis or infection including Lyme 
disease could 
also be considered in a patient of this age (2:19, 601b:61). 
  
No fracture is seen.  There is mild mucosal thickening of the 
left sphenoid 
sinus and moderate mucosal thickening of the left frontal sinus. 
 The 
remaining paranasal sinuses, mastoid air cells, and middle ear 
cavities are 
clear. The orbits are unremarkable. 
  
IMPRESSION: 
  
  
1. Evaluation is slightly limited by motion.  No acute large 
vessel territory 
infarct or intracranial hemorrhage. 
2. Right frontal white matter focal hypodensity is nonspecific 
and may 
represent chronic microvascular infarction, but a demyelinating 
process, 
vasculitis or infection including Lyme disease could also be 
considered in a 
patient of this age.  MRI could be obtained for further 
assessment and if 
there is high clinical suspicion for an acute infarct. 

EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  History: ___ with cough 
  
TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  Chest radiograph ___ 
  
FINDINGS:  
  
Cardiac silhouette size is normal.  The aorta remains tortuous 
but unchanged.  
The mediastinal and hilar contours are otherwise unremarkable.  
Pulmonary 
vasculature is not engorged.  Lungs are clear.  No pleural 
effusion or 
pneumothorax is present.  There are no acute osseous 
abnormalities. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
Mr. ___ was admitted to the stroke neurology service. MRI 
confirmed the presence of an acute stroke in the R frontal 
cortex in the area of the primary motor cortex control of the 
hand and extending down into the corona radiata. This is highly 
suspicious for a cardioembolic process, either due to Atrial 
fibrillation or known PFO. Given a prior diagnosis of Atrial 
fibrillation, the decision was made to anticoagulate with 
apixiban and stop aspirin. His LDL is pending, but he has known 
HLD. He had some palpitations with simvastatin in the past, so 
we will try a low dose of atorvastatin (10mg daily). Given known 
PFO and decision to anticoagulate, TTE will not change 
management and was deferred. His gait and hand function are back 
to baseline, so ___ also deferred. Passed bedside swallow 
without difficulty. He was discharged to home with planned 
follow up with cardiology and neurology and PCP.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 75) - () No  Results pending
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: Previously did not tolerate 
simvastatin, so initiated low dose of atorvastatin, LDL 75]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*4
2. Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*4
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
You were hospitalized due to symptoms of left hand weakness and 
numbness and slurred speech resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
Atrial Fibrillation
Patent Foramen Ovale
Prior Strokes/TIAs
High Blood Pressure
High Cholesterol
 
We are changing your medications as follows:  
STOP ASPIRIN
START APIXIBAN 5mg twice daily
START ATORVASTATIN 10mg daily

Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking 
 
Followup Instructions:
___